US07279489B2
C. N-Naphthyl-2-[3-(phenylmethoxy)phenyl]acetamide
A mixture of 2-3-hydroxyphenyl)-N-naphthylacetamide (5.00 g, 18.03 mmol), benzyl bromide (3.76 g, 22.0 mmol), and potassium carbonate (4.14 g, 30.0 mmol) in acetone (50 mL) was heated to reflux overnight. The reaction was quenched with water and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated to provide the title compound (3.176 g, 48% yield): 1H NMR (DMSO-d6) 10.13 (br, 1H), 8.06 (m, 1H), 7.94 (m, 1H), 7.77 (d, 1H), 7.67 (d, 1H), 7.26 -7.56 (m, 9H), 6.92-7.11 (m, 3H), 5.11 (s, 2H), 3.79 (s, 2H); ES-MS (m/z) 368 [M+H]+.

reactant | N-naphthylacetamide | 18.03 mmol, 5.00 g | C1(=CC=CC2=CC=CC=C12)NC(C)=O | C12H11NO
reactant | benzyl bromide | 22.0 mmol, 3.76 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 30.0 mmol, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | N-Naphthyl-2-[3-(phenylmethoxy)phenyl]acetamide | 3.176 g, 48% yield | C1(=CC=CC2=CC=CC=C12)NC(CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C25H21NO2
